Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Fentanyl
 
Attending: ___.
 
Chief Complaint:
S/p Fall
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ PMH of AFib, CAD (s/p CABG), Dementia, Osteoporosis, who 
presents from nursing home s/p unwitnessed fall for evaluation 
and was admitted to medicine for s/p fall  
As per report from nursing home staff, pt apparently suffered 
fall. At baseline alert to person (knows son) and ___ but 
nothing more. She very rarely verbalizes complaints/wishes, and 
doesnt walk on her own ___ instability. She was found on floor 
___ have gone to bathroom on her own as per staff. 
Using translator, patient reports whole body pain. Denies 
changes in vision or hearing.  
In the ED inital VS: 97.4 82 184/64 16 94%. Pt remained 
hypertensive to 160's-170s while in ED. Exam was significant for 
a left supraorbital laceration (2.5 cm in length), but EOMI. 
Labs were significant for normal WBC, Hgb of 15.8, normal coags, 
CHEM wnl except for Cr of 1.4. Lactate 1.5, UA w/ few bacteria, 
1WBC, 0Epi, Nitrite positive.  
CT-CSpine showed no fracture or malalignment but c/f right vocal 
cord paralysis. CT HEAD showed No evidence of acute intracranial 
hemorrhage but left preorbital swelling. Pelvis XRay w/ no 
definitive evidence of hip fracture. CXR w/out acute 
cardiopulmonary process.  
Pt was given TDap, had laceration sutured, 2L NS, and CTX for 
presumed UTI. C-Collar not removed as AMS prevented team from 
clearing C-Spine clinically. Pt was admitted for further 
treatment.  
On the floor, pt was minimally verbal and would not respond to 
questions.  

 
Past Medical History:
atrial fibrillation
dementia
L hip fracture ___ ago)
Hyperlipidemia
coronary artery disease s/p cabg
history of colon CA
osteoporosis
vertigo
hypothyroidism.

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Admission Physical Exam:
96.8, BP152/88, 87 16 100RA  
GENERAL: NAD, lying in bed, minimally verbal, arousable to voice 
 
HEENT: EOMI, PERRL, anicteric sclera, pink conjunctiva, MMM, 
laceration above eye w/ c/d/i dressing in place  
NECK: nontender supple neck, no tenderness, C-Collar in place  
CARDIAC: Irregular rate, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTA anteriorly, no wheezes, rales, rhonchi, breathing 
comfortably without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, minimally verbal, tracks with eyes but 
is passive and does not answer questions, but returned greeting 
of hello, apparently similar to baseline  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

Discharge Physical Exam:
T: 98.3 P: 90s BP: 120s/60s R: 16 O2: 97% RA  
GENERAL: NAD, lying in bed, minimally verbal, arousable to voice 
 
HEENT: EOMI, PERRL, anicteric sclera, pink conjunctiva, MMM, 
laceration above eye w/ c/d/i dressing in place  
NECK: nontender supple neck, no tenderness, C-Collar in place  
CARDIAC: Irregular rate, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTA anteriorly, no wheezes, rales, rhonchi, breathing 
comfortably without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact, minimally verbal, tracks with eyes but 
is passive and does not answer questions, but returned greeting 
of hello, apparently similar to baseline  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes

 
Pertinent Results:
Admission Labs:

___ 06:00PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 06:00PM URINE  BLOOD-NEG NITRITE-POS PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 06:00PM URINE  RBC-1 WBC-1 BACTERIA-FEW YEAST-NONE 
EPI-0
___ 06:00PM URINE  HYALINE-3*
___ 06:00PM URINE  MUCOUS-RARE
___ 05:00PM   LACTATE-1.5
___ 04:55PM   WBC-6.8 RBC-5.67*# HGB-15.8# HCT-50.1*# 
MCV-89 MCH-27.9 MCHC-31.5 RDW-14.5
___ 04:55PM   NEUTS-67.3 ___ MONOS-4.2 EOS-4.3* 
BASOS-0.6
___ 04:55PM   PLT COUNT-168
___ 04:55PM   ___ PTT-33.2 ___
___ 04:40PM   GLUCOSE-125* UREA N-28* CREAT-1.4* SODIUM-139 
POTASSIUM-5.1 CHLORIDE-105 TOTAL CO2-24 ANION GAP-15
___ 04:40PM   estGFR-Using this
___ 04:40PM   CK(CPK)-63
___ 04:40PM   CK-MB-3 cTropnT-<0.01

MICROBIOLOGY:  
___ Urine Culture pending  
___ Blood Culture pending  

IMAGING:  

CXR ___
No acute cardiopulmonary process.

XR Pelvis ___
No definitive evidence of acute hip fracture.

CT C Spine w/o Contrast ___
No fracture or malalignment. 
Degenerative changes and findings raising the possibility of 
right vocal cord paralysis to be correlated clinically. 

CT Head w/o Contrast ___
No evidence of acute intracranial hemorrhage 
Left periorbital swelling. 

EKG ___: 1mm ST depression in V4/V5, afib, normal rate 
EKG ___: Resolution of lateral ST depression, afib

Discharge Labs
COMPLETE BLOOD COUNT WBC RBC Hgb Hct MCV MCH MCHC RDW Plt Ct 
___ 07:40    6.9 4.83 13.5 42.3 88 28.0 32.0 14.6 167 
RENAL & GLUCOSE Glucose UreaN Creat Na K Cl HCO3 AnGap 
___ 07:40    851 31* 1.4* 142 3.8 ___ 
CHEMISTRY              Calcium Phos Mg 
___ 07:40          9.9 3.4 2.___ year old female with a past medical history of AFib, CAD (s/p 
CABG), Dementia, Osteoporosis, who presents from nursing home 
s/p unwitnessed fall for evaluation and was admitted to medicine 
for evaluation s/p fall  

Active Issues:

# S/P Fall: The patient presented from her nursing home for 
evaluation of fall due to unknown cause. She is known to have 
falls, and is the reason that she is not on A/C for AFib, likely 
___ lack of balance as per outpatient notes. An infectious 
workup revealed a positive urine culture with >100,000 e.coli 
and she was started on treatment for a urinary tract infection 
(see below). Other infectious workup includes blood cultures and 
cxr were unrevealing. She had an EKG which initially showed some 
lateral ST depressions which resolved and were not associated 
with elevated cardiac enzymes. CT head and ct-spine did not show 
any trauma from fall and the patient was discharged back to her 
nursing home on ___.

# Urinary Tract Infection: The patient received Ceftriaxone in 
ED for equivocal UA. She does not have any fever, leukocytosis, 
or history of dysuria per records so antibiotics were stopped on 
arrival to the floor. Urine culture on day 2 showed e.coli as 
above and she was discharged on a 3 day course of Bactrim. She 
remained febrile and without leukocytosis during admission. 

Chronic Issues:

# Atrial Fibrillation: The patient has a history of AF, rate 
controlled on metoprolol. She is currently not on 
anticoagulation due to history of falls, despite CHADS-2 of 2 
(age, hypertension). She was continued on home metoprolol 12.5mg 
BID during admission without event. 

# Hypothyroidism: Continued on home levothyroxine during 
admission.  
  
# Dementia: At baseline mental status as per son as told to 
ED/overnight team.

# CAD s/p CABG: Continued on home aspirin 325mg daily.

# CKD: Cr at baseline (1.2- 1.4) during admission. 

Transitional Issues: 
# Code: DNR/DNI as per MOLST and discussion w/ HCP on night of 
admission   
# Emergency Contact: Son ___. Please call son 
with results.  
- Patient will need bactrim for ___nding ___
- Patient will need sutures removed in 5 days
- Furosemide was stopped in setting of dehydration, evaluate 
need for this medication at follow up. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Aspirin 81 mg PO DAILY 
3. Cyanocobalamin 1000 mcg IM/SC QMONTH 
4. Furosemide 40 mg PO DAILY 
5. Levothyroxine Sodium 175 mcg PO DAILY 
6. Metoprolol Succinate XL 25 mg PO DAILY 
7. OLANZapine 5 mg PO QHS 
8. Senna 17.2 mg PO DAILY 
9. Lorazepam 0.25 mg PO Q6H:PRN anxiety 
10. TraZODone 12.5 mg PO QHS insomnia 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Aspirin 81 mg PO DAILY 
3. Levothyroxine Sodium 175 mcg PO DAILY 
4. OLANZapine 5 mg PO QHS 
5. Senna 17.2 mg PO DAILY 
6. TraZODone 12.5 mg PO QHS insomnia 
7. Cyanocobalamin 1000 mcg IM/SC QMONTH 
8. Lorazepam 0.25 mg PO Q6H:PRN anxiety 
9. Metoprolol Succinate XL 25 mg PO DAILY 
10. Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 3 Days 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 1 
tablet(s) by mouth twice a day Disp #*6 Tablet Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis
Urinary tract infection
Mechanical fall

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Mental Status: Confused - always.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

It has been our pleasure caring for you at ___.  You were 
admitted after your fall.  There were no evidence of bone 
fracture or internal injury on scan.  Your cardiac evaluation 
was negative.  Your urine culture did grow bacteria, so we are 
treating your urinary tract infection. Pleae continue to take 
this medication for a total of 3 days. 
 
Followup Instructions:
___